US04675332
A suspension of 7.0 g (0.023 mole) of 5-methoxy-1-phenylmethyl-1H-indole-2-carboxylic acid, ethyl ester (Y. Murakami, et al, Synthesis, 738 (1984)) in 75 ml of n-heptane under an argon atmosphere was cooled in ice and treated with 15.0 ml (24.5 g; 0.21 mole) of thionyl chloride. The mixture was stirred for 30 minutes, and the precipitated sulfinyl chloride intermediate was filtered and washed several times with hexane to yield 7.3 g (76% yield) of 3-(chlorosulfinyl)-5-methoxy-1-phenylmethyl-1H-indole-2-carboxylic acid, ethyl ester.

reactant | 5-methoxy-1-phenylmethyl-1H-indole-2-carboxylic acid, ethyl ester | 0.023 mole, 7.0 g | COC=1C=C2C=C(N(C2=CC1)CC1=CC=CC=C1)C(=O)OCC | C19H19NO3
reactant | thionyl chloride | 0.21 mole, 15.0 ml, 24.5 g | S(=O)(Cl)Cl | Cl2OS
solvent | n-heptane | 75 ml | CCCCCCC | C7H16
product | 3-(chlorosulfinyl)-5-methoxy-1-phenylmethyl-1H-indole-2-carboxylic acid, ethyl ester | 7.3 g, 76% yield | ClS(=O)C1=C(N(C2=CC=C(C=C12)OC)CC1=CC=CC=C1)C(=O)OCC | C19H18ClNO4S
